US06080773
To a stirred solution of 0.64 g of 3-[2-(1-azidoethyl)-phenyl]-1,2-benzisoxazole in 10 ml of tetrahydrofuran and 0.1 ml of water was added 0.71 g of triphenyl phosphine. The solution was stirred for 2 days then diluted with 25 ml of water and the solution was extracted with two 50 ml portions of ether and the organic layers were dried over sodium sulfate then evaporated to give a pale yellow gum. This residue was dissolved in a small amount of methanol and 0.37 g of oxalic acid was added and warmed to dissolve. Ether was added and the white solid formed was separed and recrystalised from methanol-ether. To this solid was added 25 ml of a 5% aqueous solution of sodium carbonate and the solution extracted with 50 ml and then 25 ml of methylene chloride. The combined organic layers were washed with 25 ml water, 25 ml of brine then dried over sodium sulfate. Evaporation afforded a colourless oil which was dissolved in methanol and hydrogen chloride in methanol added until the solution was acidic. Evaporation and addition of ether yielded 2-(1,2-benzisoxazol-3-yl)-a-methyl-benzenemethanamine hydrochloride, melting at 229-236° C.

reactant | 3-[2-(1-azidoethyl)-phenyl]-1,2-benzisoxazole | 0.64 g | N(=[N+]=[N-])C(C)C1=C(C=CC=C1)C1=NOC2=C1C=CC=C2 | C15H12N4O
reactant | triphenyl phosphine | 0.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | oxalic acid | 0.37 g | C(C(=O)O)(=O)O | C2H2O4
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 0.1 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | Ether | CCOCC | C4H10O
product | 2-(1,2-benzisoxazol-3-yl)-a-methyl-benzenemethanamine hydrochloride | Cl.O1N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)C(N)C | InChI=1S/C15H14N2O.ClH/c1-10(16)11-6-2-3-7-12(11)15-13-8-4-5-9-14(13)18-17-15;/h2-10H,16H2,1H3;1H
